US06362195B1
C. 2-Isopropoxy-4-methylphenylboronic Acid
To a 125 mL 3N round-bottomed flask equipped with N2 inlet and septum were added 3.59 g (15.7 mmol) 3-isopropoxy-4-bromotoluene and 30 mL dry tetrahydrofuran. The solution was cooled to −70° C. and 7.5 mL (18.8 mmol) of a 2.5 M solution of butyl lithium in hexane was added over 5 minutes, and the solution stirred 5 minutes at −70° C. Then 3.2 mL (18.8 mmol) triethyl borate was added, followed by stirring for 5 minutes at −70° C. and then stirring at room temperature for 24 hours. The reaction was quenched with 1 N aqueous hydrochloric acid and extracted into ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, and evaporated. The residue was triturated with hexane to a white solid, 1.7 g (56%).

reactant | 3-isopropoxy-4-bromotoluene | 15.7 mmol, 3.59 g | C(C)(C)OC=1C=C(C=CC1Br)C | C10H13BrO
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | butyl lithium | C(CCC)[Li]
reactant | triethyl borate | 18.8 mmol, 3.2 mL | B(OCC)(OCC)OCC | C6H15BO3
solvent | hexane | CCCCCC | C6H14
product | 2-Isopropoxy-4-methylphenylboronic Acid | C(C)(C)OC1=C(C=CC(=C1)C)B(O)O | C10H15BO3
